US07754737B2
To a solution of (S)-2-amino-3-cyclohexylpropanoic acid hydrochloride salt (41.5 g, 0.2 mol) in 0.5 N aqueous NaOH (840 mL) was added a solution of Boc2O (48 g, 0.22 mol) in THF (420 mL) and the mixture was stirred for about 2 h. After removing the organic solvent, the aqueous layer was extracted with ether (2×200 mL) and the organic layer was discarded. The aqueous layer was treated with 2N aq HCl until pH 5 and extracted with EtOAc (3×200 mL). The combined organic layers were washed with brine, and dried over Na2SO4, then evaporated to give (2S)-2-tert-butoxycarbonylamino-3-cyclohexyl-propionic acid as an oil that was used in the next step without further purification. 1H NMR (CDCl3, 400 MHz) δ 0.90 (m, 2H), 1.18 (m, 2H), 1.44 (s, 9H), 1.50 (m, 2H), 1.68 (m, 6H), 1.82 (m, 1H), 4.30 (brs, 1H), 5.00 (brs, 1H).

reactant | (S)-2-amino-3-cyclohexylpropanoic acid hydrochloride salt | 0.2 mol, 41.5 g | Cl.N[C@H](C(=O)O)CC1CCCCC1
reactant | Boc2O | 0.22 mol, 48 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | NaOH | 0.5 N, 840 mL | [OH-].[Na+]
solvent | THF | 420 mL | C1CCOC1 | C4H8O
product | (2S)-2-tert-butoxycarbonylamino-3-cyclohexyl-propionic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1CCCCC1 | C14H25NO4
